US08278441B2
Racemic N-((3SR,4RS)-3-(5-Bromo-2-fluorophenyl)-4-(hydroxymethyl)tetrahydrofuran-3-ylcarbamothioyl)benzamide
To a solution of racemic ((3RS,4SR)-4-amino-4-(5-bromo-2-fluorophenyl)tetrahydrofuran-3-yl)methanol (75 g, 259 mmol) in tetrahydrofuran (1.3 L) at 25° C. under a nitrogen atmosphere is added dropwise bis(trimethylsilyl)trifluoroacetamide (76.3 mL, 259 mmol) keeping the internal temperature below 30° C. The reaction is stirred at 25° C. for 30 minutes. Benzoyl isothiocyanate (38.4 mL, 284 mmol) is added over 10 minutes keeping internal temperature below 35° C. and the reaction is stirred at 25° C. for 30 min. The reaction mixture is diluted with ethyl acetate (500 mL) and is washed three times with 1 N HCl (3×500 mL), followed by water and brine. The solution is dried over magnesium sulfate and the solvent is removed under reduced pressure. The residue is purified by silica gel chromatography using a linear gradient of 25% to 50% ethyl acetate in hexanes to give the title compound (110 g, 94%). ES/MS m/e (79Br/81Br) 453, 455 (M+1).

reactant | racemic ((3RS,4SR)-4-amino-4-(5-bromo-2-fluorophenyl)tetrahydrofuran-3-yl)methanol | 259 mmol, 75 g | NC1(C(COC1)CO)C1=C(C=CC(=C1)Br)F | C11H13BrFNO2
reactant | bis(trimethylsilyl)trifluoroacetamide | 259 mmol, 76.3 mL | C[Si](C)(C)N(C(C(F)(F)F)=O)[Si](C)(C)C | C8H18F3NOSi2
reactant | Benzoyl isothiocyanate | 284 mmol, 38.4 mL | C(C1=CC=CC=C1)(=O)N=C=S | C8H5NOS
solvent | tetrahydrofuran | 1.3 L | O1CCCC1 | C4H8O
solvent | ethyl acetate | 500 mL | C(C)(=O)OCC | C4H8O2
product | Racemic N-((3SR,4RS)-3-(5-Bromo-2-fluorophenyl)-4-(hydroxymethyl)tetrahydrofuran-3-ylcarbamothioyl)benzamide | 110 g, 94% | BrC=1C=CC(=C(C1)C1(COCC1CO)NC(=S)NC(C1=CC=CC=C1)=O)F | C19H18BrFN2O3S
